US07259177B2
110 mg of ethyl 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}butyrate are dissolved in 5 ml of a mixture of tetrahydrofuran and water in a ratio of 2:1, and 20 mg of lithium hydroxide are added. The mixture is stirred at room temperature for 12 hours. The mixture is acidified by addition of 1 N HCl and extracted with ethyl acetate. The organic phase is dried over MgSO4, and the solvent is then removed under reduced pressure. The residue is purified by RP-HPLC. Freeze-drying gives 24 mg of 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}butyric acid as a lyophilizate. C22H29NO5 (387.48), MS(ESI): 388 (M+H+).

reactant | ethyl 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}butyrate | 110 mg | COC=1C=C(C=CC1)C=1OC(=C(N1)CO[C@H]1C[C@H](CCC1)CCCC(=O)OCC)C | C24H33NO5
reactant | lithium hydroxide | 20 mg | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}butyric acid | 24 mg | COC=1C=C(C=CC1)C=1OC(=C(N1)CO[C@H]1C[C@H](CCC1)CCCC(=O)O)C | C22H29NO5
